US07186729B2
2-(5-{3-[4-(2-Chloro-phenoxy)-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
4-(2-Chloro-phenoxy)-piperidine hydrochloride (0.067 g, 0.268 mmol) was dissolved in a mixture of acetonitrile (1.32 mL) and water (0.17 mL). To this mixture was added 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.050 g, 0.134 mmol) and potassium carbonate (0.074 g, 0.536 mmol). The mixture was stirred at room temperature for 24 hrs and then concentrated in vacuo. The resulting white solid was suspended in ethyl acetate (5 mL) and an equal volume of water was added. The product was extracted into ethyl acetate (2×5 mL). The pooled organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford an oil. The residue was purified by silica gel chromatography (ethyl acetate to 87/10/3 ethyl acetate/methanol/triethylamine gradient) to afford the title compound (46 mg, 68%).

reactant | 4-(2-Chloro-phenoxy)-piperidine hydrochloride | 0.268 mmol, 0.067 g | Cl.ClC1=C(OC2CCNCC2)C=CC=C1
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.134 mmol, 0.050 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
reactant | potassium carbonate | 0.536 mmol, 0.074 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1.32 mL | C(C)#N | C2H3N
solvent | water | 0.17 mL | O | H2O
product | 2-(5-{3-[4-(2-Chloro-phenoxy)-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | 46 mg, 68% | ClC1=C(OC2CCN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)C=CC=C1 | C30H33ClN2O3
